US07473786B1
2-p-Tolyl-1H-indole (entry 2, Table 1):
The general procedure was used to convert 1-Ethynyl-4-methyl-benzene and 2-iodoaniline to the title product. Purification by flash chromatography gave the analytically pure product as a white solid, 74% yield. 1H NMR (300 MHz, DMSO) δ 11.47 (s, 1H), 7.74 (d, J=7.72, 2H), 7.50 (d, J=7.72, 2H), 7.38 (d, J=7.91, 1H), 7.25 (d, J=7.72, 2H), 7.11-7.06 (t, J=7.91, 1H), 7.01-6.96 (t, J=7.35, 1H), 6.83 (s, 1H), 2.34 (s, 3H). 13C NMR (75 MHz, DMSO) δ 138.63, 137.85, 137.60, 130.31, 129.55, 125.77, 122.17, 120.72, 120.14, 112.04, 98.89, 21.65. Anal. Calcd. for C15H13N: C, 86.92; H, 6.32; N, 6.67. Found C, 86.69; H, 6.24; N, 6.76. m.p.: 213-215° C.

reactant | 1-Ethynyl-4-methyl-benzene | C(#C)C1=CC=C(C=C1)C | C9H8
reactant | 2-iodoaniline | IC1=C(N)C=CC=C1 | C6H6IN
product | 2-p-Tolyl-1H-indole | 74% yield | C1(=CC=C(C=C1)C=1NC2=CC=CC=C2C1)C | C15H13N
